US20010014691A1
Cyclopropyl(3-(3-pyridyloxy)propyl)amine
An Ace Glass pressure tube (185 mL) was charged with 3-chloro-1-(3-pyridyloxy)propane (0.762 g, 4.437 mmol), cyclopropylamine (8.24 g, 194.3 mmol), water (20 mL) and methanol (20 mL). The resulting light-brown solution was heated at 120° C. (oil bath temperature) for 2.5 h and allowed to cool to ambient temperature over 16 h. The solution was concentrated by rotary evaporation to an oily residue that was diluted with saturated NaCl solution (25 mL). The mixture was acidified to pH 1.0 with 10% HCl solution and extracted with CHCl3 (2×35 mL) to remove impurities. The aqueous phase was basified to pH 6 with 10% NaOH solution and extracted (4×25 mL) to remove other impurities. The aqueous phase was basified to pH 10 with 10% NaOH solution and extracted with CHCl3 (4×50 mL). The combined CHCl3 extracts were dried (Na2SO4), filtered, concentrated (rotary evaporator) and briefly dried under high vacuum to give 0.250 g of a brown oil. The oil was purified by column chromatography on silica gel (20 g) eluting with CHCl3-CH3OH (100:2) to remove impurities, followed by CHCl3-CH3OH-Et3N (50:50:2) to remove the product. Selected fractions were combined to give 220 mg (25.8%) of a brown semi-solid.

reactant | 3-chloro-1-(3-pyridyloxy)propane | 4.437 mmol, 0.762 g | ClCCCOC=1C=NC=CC1 | C8H10ClNO
reactant | cyclopropylamine | 194.3 mmol, 8.24 g | C1(CC1)N | C3H7N
reactant | water | 20 mL | O | H2O
solvent | methanol | 20 mL | CO | CH4O
product | Cyclopropyl(3-(3-pyridyloxy)propyl)amine | 0.250 g | C1(CC1)NCCCOC=1C=NC=CC1 | C11H16N2O
